US06716851B2
4-(3-Methoxyanilino)-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine
The title compound was prepared from 4-chloro-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine (100 mg, 0.402 mmol) and m-anisidine (45 μl, 0.402 mmol) similar to Example 13 and isolated as a tan solid (154 mg). 1H NMR (CDCl3): 8.23 (d, J=9.0 Hz, 2H), 7.34 (s, 1H), 7.25-7.16 (m, 4H), 6.92-6.89 (m, 1H), 6.75 (s, 1H), 6.69-6.65 (m, 1H), 4.51 (s, 2H), 3.78 (s, 3H), 3.47 (s, 3H), 2.40 (s, 3H).

reactant | 4-chloro-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine | 0.402 mmol, 100 mg | ClC1=NC(=NC(=C1)COC)C1=CC(=CC=C1)C | C13H13ClN2O
reactant | m-anisidine | 0.402 mmol, 45 μl | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Methoxyanilino)-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine | COC=1C=C(NC2=NC(=NC(=C2)COC)C2=CC(=CC=C2)C)C=CC1 | C20H21N3O2
